US07902369B2
2) Manufacture of 3-benzyl-7-bromo-4-oxo-3,4-dihydroquinazoline
10 ml of formic acid was added to 18.5 g of N-benzyl-2-amino-4-bromobenzamide, and was heated under reflux for 2 hours. After distilling out excess reagent under reduced pressure, saturated sodium bicarbonate aqueous solution was added, and extracted with ethyl acetate. Ethyl acetated layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure, and the residues were separated and purified by silicagel column chromatography (hexane/ethyl acetate=7/3), to obtain 821 mg of the above compound as a colorless solid.

reactant | N-benzyl-2-amino-4-bromobenzamide | 18.5 g | C(C1=CC=CC=C1)NC(C1=C(C=C(C=C1)Br)N)=O | C14H13BrN2O
reactant | formic acid | 10 ml | C(=O)O | CH2O2
product | 3-benzyl-7-bromo-4-oxo-3,4-dihydroquinazoline | 821 mg | C(C1=CC=CC=C1)N1C=NC2=CC(=CC=C2C1=O)Br | C15H11BrN2O
